US05359055
The reaction and workup procedures of Example 105 were repeated except that 350 mg of 20-(1,3-dioxolan-2-yl)-3β-acetoxypregn-6-ene-1α,5α-diol was used in lieu of 400 mg of 21,21-dimethoxy-20-methylpregn-6-ene-1α,3β,5α-triol to give 400 mg of 20-(1,3-dioxolan-2-yl)-3β-acetoxy-1α-benzoyloxypregn-6-en-5α-ol showing the following physical properties.

reactant | 20-(1,3-dioxolan-2-yl)-3β-acetoxypregn-6-ene-1α,5α-diol | 350 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)OC(C)=O)O | C26H40O6
reactant | 21,21-dimethoxy-20-methylpregn-6-ene-1α,3β,5α-triol | 400 mg | COC(C([C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)O)C)OC | C24H40O5
product | 20-(1,3-dioxolan-2-yl)-3β-acetoxy-1α-benzoyloxypregn-6-en-5α-ol | 400 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C1=CC=CC=C1)=O)OC(C)=O)O | C33H44O7
